US06812225B2
Ethyl-6-methoxy-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylate
Ethyl 8-bromo-4-oxo-4H-chromene-2-carboxylate (9.2 g, 28.1 mmol), as prepared in Example 2c above, was azeotroped with anhydrous toluene then the white solid was dissolved in 300 ml anhydrous toluene in a 500 mL single-neck round bottom flask. The mixture was degassed by alternating argon sparge and vacuum (3×), and the following were added in order: N-methylpiperazine (4.0 ml, 35.1 mmol), 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (1.05 g, 1.69 mmol), tris(dibenzylideneacetone)dipalladium(0) (0.50 g, 0.56 mmol) then cesium carbonate (12.8 g, 39.3 mmol). The mixture was again degassed via alternating argon sparge and vacuum and was heated at 80° C. for 17 h. Additional tris(dibenzylideneacetone)dipalladium(0) (0.10 g, 0.11 mmol) and 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.20 g, 0.32 mmol) was added and the reaction was stirred at 80° C. for another 55 h at which time the conversion was essentially complete.

reactant | Ethyl 8-bromo-4-oxo-4H-chromene-2-carboxylate | 28.1 mmol, 9.2 g | BrC=1C=CC=C2C(C=C(OC12)C(=O)OCC)=O | C12H9BrO4
reactant | N-methylpiperazine | 35.1 mmol, 4.0 ml | CN1CCNCC1 | C5H12N2
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 1.69 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 39.3 mmol, 12.8 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.32 mmol, 0.20 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.56 mmol, 0.50 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.11 mmol, 0.10 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | Ethyl-6-methoxy-8-(4-Methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylate | C(C)OC(=O)C=1OC2=C(C=C(C=C2C(C1)=O)OC)N1CCN(CC1)C | C18H22N2O5
